US03996376
2,2-Bis(Heptafluoropropyl)-4-Carbamoyloxymethyl-1,3-Dioxolane
A solution of 44.0 grams (0.1 mol) of 2,2-bis(heptafluoropropyl)-4-hydroxymethyl-1,3-dioxolane prepared by the method disclosed in patent application Ser. No. 873,660 filed Nov. 3, 1969, in 250 ml methylene dichloride is treated with 13.0 grams of sodium cyanate while 22.8 grams trifluoroacetic acid is added dropwise. The reaction is carried out at 25°-35° C. for 24 hours. After the reaction is completed, a small amount of water is added to dissolve the salts and the methylene dichloride solution is separated and washed with water. Vacuum-stripping yields the desired product. The product, 2,2-bis(heptafluoropropyl)-4-carbamoyloxymethyl-1,3-dioxolane, is purified by crystallization from a mixture of benzene and hexane.

reactant | 2,2-bis(heptafluoropropyl)-4-hydroxymethyl-1,3-dioxolane | 0.1 mol, 44.0 grams | FC(C(C1(OCC(O1)CO)C(C(C(F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C10H6F14O3
reactant | sodium cyanate | 13.0 grams | [O-]C#N.[Na+]
reactant | trifluoroacetic acid | 22.8 grams | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | O | H2O
solvent | methylene dichloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 2,2-Bis(Heptafluoropropyl)-4-Carbamoyloxymethyl-1,3-Dioxolane | FC(C(C1(OCC(O1)COC(N)=O)C(C(C(F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C11H7F14NO4
